US07169777B2
3-[2-(tert-Butoxycarbonylamino-methyl)-phenyl]-but-2-enoic acid ethyl ester
N-Boc-2-bromobenzylamine (7.15 g, 25 mmol) was dissolved into tributylamine (12 mL) and degassed under vacuum. Palladium acetate (224 mg, 1 mmol) and tri-o-tolylphosphine (608 mg, 2 mmol) was then added and the mixture degassed under vacuum. Trans-ethylcrotonate (6.25 mL, 50 mmol) was then added and the mixture was degassed with nitrogen. The tube was sealed and the mixture was heated to 110° C. for 48 h. The solution was cooled to room temperature, diluted with diethyl ether (200 mL) and filtered through celite. The solution was washed with 1N HCl (2×50 mL) and brine (50 mL) dried over magnesium sulfate and concentrated to dryness. Flash chromatography (9:1 hexanes/ethyl acetate) gave the title compound as a yellow oil (1.6 g, 20%). 1H NMR 7.22–7.37 (m, 3H), 7.08 (dd, J=7.4, 1.6 Hz, 1H), 5.75 (d, J=1.3 Hz, 1H), 4.29–4.31 (m, 2H), 4.20 (q, J=7.1 Hz, 2H), 2.45 (d, J=1.3 Hz, 3H), 1.44 (s, 9H), 1.30 (t, J=7.1 Hz, 3H).

reactant | N-Boc-2-bromobenzylamine | 25 mmol, 7.15 g | C(=O)(OC(C)(C)C)NCC1=C(C=CC=C1)Br | C12H16BrNO2
reactant | tributylamine | 12 mL | C(CCC)N(CCCC)CCCC | C12H27N
reactant | tri-o-tolylphosphine | 2 mmol, 608 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | Trans-ethylcrotonate | 50 mmol, 6.25 mL | C(C)OC(\C=C\C)=O | C6H10O2
catalyst | Palladium acetate | 1 mmol, 224 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[2-(tert-Butoxycarbonylamino-methyl)-phenyl]-but-2-enoic acid ethyl ester | 1.6 g, 20% | C(C)OC(C=C(C)C1=C(C=CC=C1)CNC(=O)OC(C)(C)C)=O | C18H25NO4
